US04421758
(b) Trans-1-[6-(4-chlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole
A mixture of 0.28 g (12 mmoles) of 50% sodium hydride (i.e. 50% w/w sodium hydride in mineral oil) and 0.817 g (12 mmoles) of imidazole was stirred in 25 ml of dimethylformamide at 80° C. for 30 minutes. The mixture was then left to cool at room temperature, after which there was added a solution of 3.30 g of trans-6-(4-chlorobenzyloxy)-2-tosyloxymethyltetrahydropyran in 5 ml of dimethylformamide, at room temperature, and then the mixture was heated at 80°-85° C. for 2 hours. After cooling the mixture, it was poured into ice-water and then extracted with diethyl ether. The ethereal extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulphate, after which the solvent was evaporated off. The residue was purified by column chromatography through 50 g of silica gel eluted with a 30:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine, to give 2.21 g of the title compound as a colourless oil.

reactant | sodium hydride | 12 mmoles, 0.28 g | [H-].[Na+]
reactant | imidazole | 12 mmoles, 0.817 g | N1C=NC=C1 | C3H4N2
reactant | trans-6-(4-chlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 3.30 g | ClC1=CC=C(CO[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C20H23ClO5S
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Trans-1-[6-(4-chlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole | 2.21 g | ClC1=CC=C(CO[C@H]2CCC[C@@H](O2)CN2C=NC=C2)C=C1 | C16H19ClN2O2
